US06107329
(±)-5-Chloro-1H-indole-2-carboxylic acid [1-(2-chloro-benzyl)-2-oxo-2-thiazolidin-3-yl-ethyl]-amide
From 5-chloro-1H-indole-2-carboxylic acid and (±)-2-amino-3-(2-chloro-phenyl)-1-thiazolidin-3-yl-propan-1-one. mp 214-216° C.

reactant | 5-chloro-1H-indole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | (±)-2-amino-3-(2-chloro-phenyl)-1-thiazolidin-3-yl-propan-1-one | NC(C(=O)N1CSCC1)CC1=C(C=CC=C1)Cl | C12H15ClN2OS
product | (±)-5-Chloro-1H-indole-2-carboxylic acid [1-(2-chloro-benzyl)-2-oxo-2-thiazolidin-3-yl-ethyl]-amide | ClC1=C(CC(C(N2CSCC2)=O)NC(=O)C=2NC3=CC=C(C=C3C2)Cl)C=CC=C1 | C21H19Cl2N3O2S
